US06747023B1
1-[(6-Chlorobenzo[b]thien-2-yl)sulfonyl]piperidin-4-one
In N,N-dimethylformamide (10 ml) was suspended piperidin-4-one (monohydrochloric acid monohydrate, 1.54 g), followed by the addition of diisopropylethylamine (3.48 ml) and 6-chlorobenzo[b]thiophene-2-sulfonyl chloride (2.68 g). The resulting mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure. Ethyl acetate was then added to the residue, followed by washing with 1N hydrochloric acid. After extraction, the organic layer was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (ethyl acetate methylene chloride=3:1), followed by washing with hexane, whereby the title compound (colorless prism crystals, 1.92 g) was obtained.

reactant | piperidin-4-one | 1.54 g | N1CCC(CC1)=O | C5H9NO
reactant | diisopropylethylamine | 3.48 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-chlorobenzo[b]thiophene-2-sulfonyl chloride | 2.68 g | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[(6-Chlorobenzo[b]thien-2-yl)sulfonyl]piperidin-4-one | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CCC(CC2)=O)C1 | C13H12ClNO3S2
